US05541324
N-(5-Chloro-2-nitrophenyl)-2-methylalanine (X)
Jones reagent (2.67 M) is added in aliquots (40 ml, 20 ml, 20 ml, 20 ml and 10 ml) every 15 min to a solution of 2-[N-(5-Chloro-2-nitrophenyl)]amino-2-methyl-1-propanol (IX,EXAMPLE 9, 26.9 g) and acetone (2.05 l) at 0° until the reaction is done as measured by TLC. Isopropanol (150 ml) is added and the mixture is allowed to warm to 20°-25°. The mixture is filtered and the solids are washed with acetone several times. The combined filtrates are concentrated and partitioned between ether (800 ml) and potassium hydroxide (10%, 3×100 ml). The basic layers are acidified (3 N hydrochloric acid) and extracted with methylene chloride (3×180 ml). The methylene chloride layers are dried over magnesium sulfate, filtered, and concentrated to provide the title compound, mp 146°-147°; IR (mineral oil) 3363, 2953, 2924, 2855, 1707, 1613, 1573, 1495, 1336, 1272, 1241 and 753 cm-1 ; NMR (CDCl3) 8.48, 8.16, 6.68, 6.64 and 1.74 δ; MS (EI, m/z) 258 and 213.

reactant | Jones reagent | 2.67 M | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 2-[N-(5-Chloro-2-nitrophenyl)]amino-2-methyl-1-propanol | 26.9 g | ClC=1C=CC(=C(C1)NC(CO)(C)C)[N+](=O)[O-] | C10H13ClN2O3
reactant | acetone | 2.05 l | CC(=O)C | C3H6O
solvent | Isopropanol | 150 ml | C(C)(C)O | C3H8O
product | N-(5-Chloro-2-nitrophenyl)-2-methylalanine | ClC=1C=CC(=C(C1)NC(C)(C(=O)O)C)[N+](=O)[O-] | C10H11ClN2O4
